US06960581B2
Synthesis of 2-benzyl-4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methylpentanoic acid (1-oxo-1,3-dihydroisobenzofuran-5-yl)amide
To a stirred solution of 2-benzyl-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentanoic acid (1-oxo-1,3-dihydroisobenzofuran-5-yl)amide (25 mg, 0.053 mmol) in anhydrous methylene chloride (1 mL) and cooled in ice was added boron tribromide (0.3 mL of 1 M solution in methylene chloride, 0.3 mmol). The reaction was stirred at room temperature for 3 hours and then quenched with water (5 mL). Methylene chloride (25 mL) was added, the organic layer separated, dried over anhydrous sodium sulfate and concentrated in vacuo to give a light brown oil which was purified by preparative TLC eluting with methylene chloride-EtOAc (9:1) to give the title compound as a light, cream colored solid.

reactant | 2-benzyl-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentanoic acid (1-oxo-1,3-dihydroisobenzofuran-5-yl)amide | 0.053 mmol, 25 mg | O=C1OCC2=CC(=CC=C12)NC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CC1=CC=CC=C1)=O | C28H28FNO5
reactant | boron tribromide | 0.3 mmol, 1 M, 0.3 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyl-4-(5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methylpentanoic acid (1-oxo-1,3-dihydroisobenzofuran-5-yl)amide | O=C1OCC2=CC(=CC=C12)NC(C(CC(C)(C)C1=C(C=CC(=C1)F)O)(O)CC1=CC=CC=C1)=O | C27H26FNO5
